US07655666B2
A solution of N-[3-(acetyl-methanesulfonyl-amino)-2,4-dioxo-7-trifluoromethyl-1,2,3,4-tetrahydro-quinazolin-6-ylmethyl]-acetamide (305 mg, 0.70 mmol) in 2M aq HCl (5 mL) was stirred at 80° C. for 1 d. Subsequently, the solvent was evaporated and the crude product was purified by preparative thin-layer chromatography (DCM/MeOH 8/2) to yield N-(3-methanesulfonylamino-2,4-dioxo-7-trifluoromethyl-1,2,3,4-tetrahydro-quinazolin-6-ylmethyl)-acetamide (22 mg, 0.056 mmol, 8%) as a light beige solid. 1H-NMR (DMSO-d6, 400 MHz) 3.13 ppm (s, 3H, SO2—CH3); LC-MS rt=2.35 min; MS: m/z 394.9 [M+H]+ Column: SunFireC18, 4.6*50 mn, 3.5 um; Positive MS Water/Acetonitrile 95:5 to 5:95 in 5 min, Flow: 1.5 mL/min

reactant | N-[3-(acetyl-methanesulfonyl-amino)-2,4-dioxo-7-trifluoromethyl-1,2,3,4-tetrahydro-quinazolin-6-ylmethyl]-acetamide | 0.70 mmol, 305 mg | C(C)(=O)N(N1C(NC2=CC(=C(C=C2C1=O)CNC(C)=O)C(F)(F)F)=O)S(=O)(=O)C | C15H15F3N4O6S
solvent | HCl | 2M, 5 mL | Cl | ClH
product | N-(3-methanesulfonylamino-2,4-dioxo-7-trifluoromethyl-1,2,3,4-tetrahydro-quinazolin-6-ylmethyl)-acetamide | 0.056 mmol, 22 mg, 8% | CS(=O)(=O)NN1C(NC2=CC(=C(C=C2C1=O)CNC(C)=O)C(F)(F)F)=O | C13H13F3N4O5S
